US04977144
5-[1-(dimethylamino)-ethylideneamino]-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-imidazole-4-carbonitrile is reacted with sodium hydride in dioxane as described in Example 10 and the crude product is reacted with methanolic ammonia at room temperature over 18 hours. The mixture is concentrated to dryness and purified by silica gel chromatography to afford 7-amino-3-β-D-ribofuranosyl-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-5-amine.

reactant | 5-[1-(dimethylamino)-ethylideneamino]-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-imidazole-4-carbonitrile | CN(C(C)=NC1=C(N=CN1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C#N)C | C19H25N5O7
reactant | sodium hydride | [H-].[Na+]
reactant | ammonia | N | H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 7-amino-3-β-D-ribofuranosyl-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-5-amine | NC1=C2C(=NC(=C1)N(C)C)N(C=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C13H19N5O4
